US07816371B2
a. (R)-2-(4-Chloro-3-fluorophenyl)-N-(2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide
To a solution of (R)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propyl acetate (800 mg, 0.003 mol) in methylene chloride (20 mL, 0.2 mol) was added 2-(4-chloro-3-fluorophenyl)acetic acid (870 mg, 0.0046 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (2900 mg, 0.0077 mol) and N,N-diisopropylethylamine (3000 μL, 0.02 mol). The reaction mixture was stirred overnight at room temperature and then concentrated. methanol (20 mL, 0.6 mol) and potassium carbonate (1000 mg, 0.009 mol) were added and the mixture was allowed to stir at room temperature for one hour. Volatiles were removed and the residue was taken up in methylene chloride (100 ml). The mixture was washed with aqueous NaHCO3 (150 ml), brine (150 ml) and water (200 ml). The layers were separated and the organics dried over Na2SO4 and concentrated under reduced pressure. The mixture was then purified by flash chromatography (Ethyl acetate: Hexanes, 0-40%). The combined pure fractions were reduced in vacuo to yield the title compound as a yellow solid. M+1=389.1

reactant | (R)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.003 mol, 800 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=CC(=C2C=C1)N)=O | C14H16N2O3
reactant | methylene chloride | 0.2 mol, 20 mL | C(Cl)Cl | CH2Cl2
reactant | 2-(4-chloro-3-fluorophenyl)acetic acid | 0.0046 mol, 870 mg | ClC1=C(C=C(C=C1)CC(=O)O)F | C8H6ClFO2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.0077 mol, 2900 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.02 mol, 3000 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol | 0.6 mol, 20 mL | CO | CH4O
reactant | potassium carbonate | 0.009 mol, 1000 mg | C([O-])([O-])=O.[K+].[K+]
product | (R)-2-(4-Chloro-3-fluorophenyl)-N-(2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide | ClC1=C(C=C(C=C1)CC(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](CO)C)F | C20H18ClFN2O3
